US06930109B2
(6R)-6-(tert-Butyl-dimethyl-silanyloxymethyl)-7,8-dihydro-6H-5-oxa-1-aza-phenanthrene
A solution of (6R)-6-(tert-butyl-dimethyl-silanyloxymethyl)-2-hydroxy-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester (0.45 g, 1.0 mmole) in o-dichlorobenzene (150 mL) was stirred at 180° C. for 4 hours. The solvent was removed in vacuum. The residue was purified by column chromatography on silica gel (10% methylene chloride/hexane) to afford 0.23 g (70%) of the title compound as an oil, [α]25D=−61.94° (c=10.7, THF).

reactant | (6R)-6-(tert-butyl-dimethyl-silanyloxymethyl)-2-hydroxy-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester | 1.0 mmole, 0.45 g | C(C)(C)(C)OC(=O)N1C(CCC2=C3O[C@H](CCC3=CC=C12)C(O[SiH2]C(C)(C)C)(C)C)O | C24H39NO5Si
solvent | o-dichlorobenzene | 150 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (6R)-6-(tert-Butyl-dimethyl-silanyloxymethyl)-7,8-dihydro-6H-5-oxa-1-aza-phenanthrene | 0.23 g, 70% | C(C)(C)(C)[SiH2]OC([C@@H]1OC2=C3C=CC=NC3=CC=C2CC1)(C)C | C19H27NO2Si
